US06846936B2
2-Butyl-3-(4-[3-(dibutylamino)propoxy]benzoyl]-5-nitrobenzofuran
The organic phase, comprising the 2-butyl-3-(4-[3-(dibutylamino)propoxy]benzoyl)-5-nitrobenzofuran hydrochloride thus formed, is subsequently washed 5 times using 600 ml of deionized water. It is washed a sixth time with 600 ml of deionized water comprising 50 g (0.595 mol) of sodium hydrogencarbonate to release the desired compound. The chlorobenzene is removed on a rotary evaporator (bath temperature: 35° C., pressure: 10 mmHg).

reactant | 2-butyl-3-(4-[3-(dibutylamino)propoxy]benzoyl)-5-nitrobenzofuran hydrochloride | Cl.C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCCN(CCCC)CCCC)=O)C=C(C=C2)[N+](=O)[O-]
reactant | water | 0.595 mol, 600 ml, 50 g | O | H2O
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 2-Butyl-3-(4-[3-(dibutylamino)propoxy]benzoyl]-5-nitrobenzofuran | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)OCCCN(CCCC)CCCC)=O)C=C(C=C2)[N+](=O)[O-] | C30H40N2O5
